US06245761B1
Preparation of 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[[2-(piperidin-4-yl)ethyl]carbonyl]-1H-indole (Example 67)
Under an argon atmosphere 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[[2-(1-tritylpiperidin-4-yl)ethyl]carbonyl]-1H-indole (0.2723 g, 0.417 mmol) was dissolved in 2.1 ml of methylene chloride. To this solution formic acid (0.079 ml, 0.096 g, 2.084 mmol) was added and the resulting mixture was stirred at room temperature for about 2.5 hours. The progress of the reaction was monitored by thin layer chromatography.

reactant | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[[2-(1-tritylpiperidin-4-yl)ethyl]carbonyl]-1H-indole | 0.417 mmol, 0.2723 g | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2C(=O)CCC2CCN(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C)C=C1 | C43H41ClN2O2
reactant | formic acid | 2.084 mmol, 0.079 ml, 0.096 g | C(=O)O | CH2O2
solvent | methylene chloride | 2.1 ml | C(Cl)Cl | CH2Cl2
product | 2-[(4-chlorophenoxy)methyl]-1-methyl-3-[[2-(piperidin-4-yl)ethyl]carbonyl]-1H-indole | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2C(=O)CCC2CCNCC2)C)C=C1 | C24H27ClN2O2
